US06927222B2
i) (2S)-2-[(5-Fluoro-2-nitrophenoxy)methyl]oxirane
In a flask was added (R)-glycidol (0.994 g, 13.4 mmole) and triphenylphosphine (3.52 g, 13.4 mmole) and THF (20 ml, dried over molecular sieves), and 5-fluoro-2-nitrophenol (2.10 g, 13.4 mmole). The mixture was stirred until a homogeneous solution was obtained. The solution was cooled in an ice bath and diethylazodicarboxylate (DEAD, 2.11 ml, 13.4 mmole) was added dropwise over a few minutes. After completed addition, the flask was allowed to reach room temperature and stirred for an additional 2 hours. The solvent was removed in vaccuo and to the residue was added chloroform (5-10 ml). The precipitate (PPh3O) was removed by filtration and the solid was washed with an additional amount of chloroform (5-10 ml). The filtrate was added to a flash column (SiO2, Heptane:Ethyl acetate 4:1), and purified to give 2.02 g (71%) of the sub-title compound as a crystalline material after concentration of pure fractions.

reactant | (R)-glycidol | 13.4 mmole, 0.994 g | C1[C@H](O1)CO | C3H6O2
reactant | triphenylphosphine | 13.4 mmole, 3.52 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-fluoro-2-nitrophenol | 13.4 mmole, 2.10 g | FC=1C=CC(=C(C1)O)[N+](=O)[O-] | C6H4FNO3
reactant | diethylazodicarboxylate | 13.4 mmole, 2.11 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (2S)-2-[(5-Fluoro-2-nitrophenoxy)methyl]oxirane | 2.02 g, 71% | FC=1C=CC(=C(OC[C@H]2OC2)C1)[N+](=O)[O-] | C9H8FNO4
